US07786132B2
2-(1-(4-Fluorophenyl)ethyl)thiazole
A mixture of iodine (856 mg, 3.37 mmol), hypophosphorous acid (3.152 mL, 20.22 mmol) and acetic acid (40 mL) was heated to 60° C. until the reaction mixture became clear. 1-(4-fluorophenyl)-1-(thiazol-2-yl)ethanol (1.05 g, 5.07 mmol) was added to the solution and the reaction mixture was heated to 80° C. overnight. After cooling to rt, the reaction mixture was neutralized with concentrated sodium hydroxide and the crude product was extracted with chloroform, washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by flash chromatography with 0-40% ethyl acetate in hexane to afford the title compound as an oily brown residue (351 mg, 50% yield). MS (M+H)+ 208.

reactant | iodine | 3.37 mmol, 856 mg | II | I2
reactant | hypophosphorous acid | 20.22 mmol, 3.152 mL | [PH2](=O)O | H3O2P
reactant | 1-(4-fluorophenyl)-1-(thiazol-2-yl)ethanol | 5.07 mmol, 1.05 g | FC1=CC=C(C=C1)C(C)(O)C=1SC=CN1 | C11H10FNOS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 2-(1-(4-Fluorophenyl)ethyl)thiazole | FC1=CC=C(C=C1)C(C)C=1SC=CN1 | C11H10FNS
